US04588723
2-Diethylaminomethyl-6-phenyl-imidazo[2,1-b]-1,3,4-thiadiazol-5-carbaldehyde
2.3 ml (0.025 mol) of phosphorus oxychloride are added dropwise to 20 ml of dimethylformamide at 0°-5° C. 5.7 g (0.02 mol) of 2-diethylaminomethyl-6-phenyl-imidazo-[2,1-b]-1,3,4-thiadiazole are then added and the mixture is warmed at 100° C. for 2 hours. After cooling, 50 ml of water are added and the mixture is neutralised with 20% strength sodium hydroxide solution and extracted with ether.

reactant | phosphorus oxychloride | 0.025 mol, 2.3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | 2-diethylaminomethyl-6-phenyl-imidazo-[2,1-b]-1,3,4-thiadiazole | 0.02 mol, 5.7 g | C(C)N(CC)CC1=NN2C(S1)=NC(=C2)C2=CC=CC=C2 | C15H18N4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | 2-Diethylaminomethyl-6-phenyl-imidazo[2,1-b]-1,3,4-thiadiazol-5-carbaldehyde | C(C)N(CC)CC1=NN2C(S1)=NC(=C2C=O)C2=CC=CC=C2 | C16H18N4OS
